US05082943
a) Methyl 4-chloroanthranilate
A solution of 10.0 g (58 mmol) of 4-chloroanthranilic acid in 100 ml of methanol was heated under reflux, while gaseous hydrogen chloride was blown through the heated solution for 2.5 hrs. After the heating was terminated, methanol was distilled off. The residue was shaken with chloroform and aqueous sodium carbonate. The organic phase was taken out and dried over anhydrous sodium sulfate. Chloroform was distilled off under reduced pressure to leave 9.68 g of the desired compound as a residual pale brown crystalline product.

reactant | 4-chloroanthranilic acid | 58 mmol, 10.0 g | ClC=1C=C(C(C(=O)O)=CC1)N | C7H6ClNO2
reactant | hydrogen chloride | Cl | ClH
reactant | methanol | 100 ml | CO | CH4O
product | Methyl 4-chloroanthranilate | 9.68 g | ClC=1C=C(C(C(=O)OC)=CC1)N | C8H8ClNO2
